US09085555B2
(1R,3S,5R)-2-{2-[3-Acetyl-6-(1H-tetrazol-5-yl)-indol-1-yl]-acetyl}-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide
The title compound was prepared in a similar manner as described above for Example 617 from (1R,3S,5R)-2-[2-(3-acetyl-6-cyano-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide (prepared as described in Example 616 (100.0 mg, 0.203 mmol), sodium azide (66.0 mg, 1.014 mmol) and zinc bromide (228.0 mg, 1.014 mmol) in water (2 mL) and isopropanol (1 mL). White solid. MS (LC/MS): 536.0 [M+H]+; tR (HPLC conditions k): 3.21 min.

reactant | (1R,3S,5R)-2-[2-(3-acetyl-6-cyano-indol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@H]3C2)C(CN2C=C(C3=CC=C(C=C23)C#N)C(C)=O)=O)C=CC1)F | C26H22ClFN4O3
reactant | sodium azide | 1.014 mmol, 66.0 mg | [N-]=[N+]=[N-].[Na+]
solvent | water | 2 mL | O | H2O
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
catalyst | zinc bromide | 1.014 mmol, 228.0 mg | [Br-].[Zn+2].[Br-]
product | (1R,3S,5R)-2-{2-[3-Acetyl-6-(1H-tetrazol-5-yl)-indol-1-yl]-acetyl}-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@H]3C2)C(CN2C=C(C3=CC=C(C=C23)C2=NN=NN2)C(C)=O)=O)C=CC1)F | C26H23ClFN7O3
